US07241769B2
N-[3-fluoro-2-(hydroxyl-o-tolyl-methyl)-phenyl]-acetamide
100 mg (0.83 mmol) N-(3-fluoro-2-formyl-phenyl)-acetamide are dissolved in 4 ml of tetrahydrofuran and cooled to −78° C. Then at this temperature 1.66 ml (3.3 mmol) of a 2 M solution of o-tolylmagnesium bromide in diethyl ether are added. This reaction mixture is thawed to ambient temperature overnight with stirring. Then the reaction mixture is stirred into 30 ml dist. water and extracted three times with 10 ml of ethyl acetate. The organic phase is dried with MgSO4, the solvent is eliminated in vacuo. The crude product is purified by column chromatography. The carrier material used is silica gel and the eluant used is a mixture of cyclohexane:ethyl acetate (80:20).

reactant | N-(3-fluoro-2-formyl-phenyl)-acetamide | 0.83 mmol, 100 mg | FC=1C(=C(C=CC1)NC(C)=O)C=O | C9H8FNO2
reactant | o-tolylmagnesium bromide | C1(=C(C=CC=C1)[Mg]Br)C
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[3-fluoro-2-(hydroxyl-o-tolyl-methyl)-phenyl]-acetamide | FC=1C(=C(C=CC1)NC(C)=O)C(C1=C(C=CC=C1)C)O | C16H16FNO2
